data/mechanism_extracts/Chemistry/10.1002_chem.202400280_sup_1.json
{"doi": "10.1002_chem.202400280_sup_1", "journal": "Chemistry", "is_review": false, "rxn_class_summary": "Photoelectrochemical radical selenocyclization of N-alkenylacrylamides with diselenides (PhSeSePh) catalyzed by 4CzIPN to form selenylated pyrrolinones (e.g., 3a).", "mechanism_family": ["photoredox_combined", "radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation regenerates/oxidizes the photocatalyst (4CzIPN) or directly oxidizes selenide to a selenyl radical; cathode reduces protons to H2 (hydrogen evolution detected), enabling net oxidative selenocyclization under combined photo/electrochemical conditions.", "key_intermediates": [{"name": "phenylselenyl radical (PhSe•)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "carbon-centered radical from PhSe• addition to acrylamide alkene of 1a", "smiles": null, "role": "reactive"}, {"name": "cyclized alkyl radical after intramolecular addition onto pendant styrenyl alkene", "smiles": null, "role": "transient"}, {"name": "carbocation after oxidation of cyclized radical (radical-polar crossover)", "smiles": null, "role": "transient"}, {"name": "4CzIPN excited state (*4CzIPN)", "smiles": null, "role": "reactive"}], "electron_flow": "Visible light excites 4CzIPN; the excited photocatalyst oxidizes PhSeSePh to generate a PhSe• radical that adds to the acrylamide alkene of 1a, initiating 5-exo-trig radical cyclization onto the pendant alkene. The resulting alkyl radical is oxidized (radical-polar crossover) to a cation that undergoes deprotonation/aromatization to give 3a; the anode regenerates the photocatalyst while the cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Yield partially suppressed (60% A / 40% B / 37% C); radical pathway implicated but not fully shut down."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction completely suppressed (0% under all conditions), strongly supporting radical intermediates."}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Partial suppression (41/32/46%), consistent with radical intermediates."}, {"name": "azulene", "smiles": "c1ccc2cccc-2cc1", "purpose": "intermediate_trap", "observation": "Reaction shut down (trace), suggesting triplet-state involvement."}, {"name": "ferrocene (Fc)", "smiles": "[Fe+2].[cH-]1cccc1.[cH-]1cccc1", "purpose": "intermediate_trap", "observation": "Trace yield; triplet quenching suppresses reaction."}, {"name": "biisobutenyl (2,5-dimethyl-2,4-hexadiene)", "smiles": "CC(C)=CC=C(C)C", "purpose": "intermediate_trap", "observation": "Trace under A, 31% under B; partial triplet quenching."}, {"name": "trans-stilbene/parbenate", "smiles": null, "purpose": "intermediate_trap", "observation": "16% (A), 18% (B); significant triplet quenching."}, {"name": "benzil", "smiles": "O=C(C(=O)c1ccccc1)c1ccccc1", "purpose": "intermediate_trap", "observation": "15% (A), 46% (B); triplet quencher partially suppresses."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "on/off_light_or_current", "UV_vis", "DFT", "crossover", "other"], "evidence_strength": "strong", "notes": "Mechanistic SI includes quenching experiments (radical and triplet scavengers), reaction profiles, on-off light/current experiments, CV, UV-Vis, fluorescence, H2 detection, Se-scrambling crossover experiments with MeSeSeMe under 395 nm, excited-state redox potential determinations for 4CzIPN, 1a, and 3a in DCE/HFIP (3:1), and DFT calculations. Control experiments confirm 1a/3a do not act as 395-nm photooxidants or energy-transfer photocatalysts, supporting 4CzIPN as the active photocatalyst. Triplet-state involvement supported by quenching with azulene, Fc, benzil, etc."}
